US08471005B2
[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-[1,2,3]thiadiazol-4-yl-phenyl)-amine
Trifluoro-methanesulfonic acid 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (0.138 g, 0.369 mmol and 4-[1,2,3]Thiadiazol-4-yl-phenylamine (0.0817 g, 0.461 mmol) were reacted in an analogous manner to Example 908D at 50° overnight. The reaction mixture was filtered and the resulting solid was washed with acetone to give the title compound as a pale yellow solid (36 mg, 24%). HPLC rt=3.347, purity=99%. LCMS=401.9 (M+H). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.81 (s, 1H), 9.52 (s, 1H), 9.04 (s, 1H), 8.93 (d, J=2.0 Hz, 1H), 8.54 (dd, J=8.7 Hz, 2.3 Hz, 1H), 8.08 (d, J=7.9 Hz, 2H), 7.91 (d, J=8.6 Hz, 2H), 7.21 (d, J=4.4 Hz, 1H), 7.08 (d, J=8.7 Hz, 1H), 7.00 (d, J=4.3 Hz, 1H), 3.96 (s, 3H).

reactant | Trifluoro-methanesulfonic acid 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C13H9F3N4O4S
reactant | 4-[1,2,3]Thiadiazol-4-yl-phenylamine | 0.461 mmol, 0.0817 g | S1N=NC(=C1)C1=CC=C(C=C1)N | C8H7N3S
product | [7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-[1,2,3]thiadiazol-4-yl-phenyl)-amine | 36 mg, 24% | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C=2N=NSC2 | C20H15N7OS
